US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (196 mg, 0.62 mmol), with sodium carbonate (85 mg, 0.80 mmol), and 2-bromopropiophenone (210 mg, 0.98 mmol, 1.6 eq) in MeOH (12 mL), provided 72 mg (26%) of L-isoleucine, N-[1-(1-methyl-2-phenyl-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-proline L-isoleucine benzylamide | 0.62 mmol, 196 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | sodium carbonate | 0.80 mmol, 85 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromopropiophenone | 0.98 mmol, 210 mg, 1.6 eq | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | MeOH | 12 mL | CO | CH4O
product | L-isoleucine, N-[1-(1-methyl-2-phenyl-2-oxoethyl)-L-prolyl] benzylamide | 72 mg, 26% | CC(C(=O)C1=CC=CC=C1)N1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C27H35N3O3
